US05786386
In a 100-ml round-bottomed flask were placed 2,4-dichlorobenzylamine (3.5 g (20 mmol)), triethylamine (4.0 g (40 mmol)), and chloroform (10 ml) under nitrogen. While stirring, laurylbromide (4.9 g (20 mmol)) in chloroform (5 ml) was added dropwise at 50°-60° C. The mixture was stirred for 6 hours. The reaction mixture was cooled to room temperature and concentrated. The resultant concentrate was dissolved in ethyl acetate, washed with water, and purified via silica gel column chromatography (chloroform:methanol=10:1), thereby obtaining 2.3 g of N-lauryl-2,4-dichlorobenzylamine as pale yellow crystals (yield: 34%).

reactant | 2,4-dichlorobenzylamine | 20 mmol, 3.5 g | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | triethylamine | 40 mmol, 4.0 g | C(C)N(CC)CC | C6H15N
reactant | laurylbromide | 20 mmol, 4.9 g | C(CCCCCCCCCCC)Br | C12H25Br
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-lauryl-2,4-dichlorobenzylamine | 2.3 g, yield: 34% | C(CCCCCCCCCCC)NCC1=C(C=C(C=C1)Cl)Cl | C19H31Cl2N
